US09126952B2
4.22 g (0.019 mol) of 2-amino-4-morpholin-4-ylbenzoic acid and 4.0 g (0.038 mol) of formamidine acetate were suspended in 40 ml of ethanol. The reaction mixture was subsequently stirred under reflux for 16 h. Conventional work-up gave 2.2 g (Y=50%) of 7-morpholin-4-yl-3H-quinazolin-4-one.

reactant | 2-amino-4-morpholin-4-ylbenzoic acid | 0.019 mol, 4.22 g | NC1=C(C(=O)O)C=CC(=C1)N1CCOCC1 | C11H14N2O3
reactant | formamidine acetate | 0.038 mol, 4.0 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 7-morpholin-4-yl-3H-quinazolin-4-one | 2.2 g, 50% | N1(CCOCC1)C1=CC=C2C(NC=NC2=C1)=O | C12H13N3O2
